US04551452
alpha-Chloroethyl Benzoate
By the procedure of the preceding Preparation, freshly distilled benzoyl chloride (58.0 mL, 70.3 g, 500 mmole) was reacted with acetaldehyde (27.9 mL, 22.0 g, 500 mmol), added at a rate such that the reaction temperature did not exceed 5° C. during the addition. When the addition was complete, the orange solution was allowed to warm to room temperature, then treated with water (100 mL) and methylene chloride (100 mL). The pH was adjusted to 7.0 and the organic layer was isolated, washed with water (100 mL), brine (100 mL), dried (Na2SO4) and concentrated in vacuo to a dark brown oil (83.0 g). 1H NMR indicated less than 0.5% hexanoyl chloride in the product mixture. TLC (CH2Cl2) showed two UV active spots (Rf 0.60, 0.65). A 10.0 g aliquot of the oil was chromatographed on silica gel (methylene chloride) affording 7.3 g of title product as the less polar (Rf 0.65 ) component: 1H NMR (CDCl3) 1.88 (d, J=6 Hz, 3H), 6.78 (q, J=6 Hz, 1H), 7.15-7.70 (m, 3H), 7.70-8.20 (m, 2H).

reactant | benzoyl chloride | 500 mmole, 58.0 mL, 70.3 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | acetaldehyde | 500 mmol, 27.9 mL, 22.0 g | C(C)=O | C2H4O
reactant | water | 100 mL | O | H2O
reactant | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | alpha-Chloroethyl Benzoate | 7.3 g | C(C1=CC=CC=C1)(=O)OC(C)Cl | C9H9ClO2
